2154-10-27 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-26**]
   - titrated PS to [**6-11**]
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-10-26**] 02:30 PM
 EKG - At [**2154-10-26**] 04:15 PM
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2154-10-26**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-10-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-10-27**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 79 (73 - 85) bpm
   BP: 115/59(73) {96/57(67) - 129/71(84)} mmHg
   RR: 24 (21 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,533 mL
                                                                    264 mL
   PO:
             TF:
   IVF:
                                                                    533 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    380 mL
   Urine:
                                                                    435 mL
                                                                    380 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,823 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 408 (408 - 507) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.36/41/116/22/-1
   Ve: 10.4 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   13.1 g/dL
   131 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   19 mg/dL
   111 mEq/L
   143 mEq/L
   39.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2154-10-26**]  01:05 PM
                             [**2154-10-26**]  04:10 PM
                             [**2154-10-26**]  06:03 PM
                             [**2154-10-27**]  12:17 AM
   WBC
   13.9
   16.1
   Hct
   39.0
   39.4
   Plt
   203
   196
   Cr
   0.8
   TropT
   0.06
   0.04
   TCO2
   23
   24
   Glucose
   131
   Other labs: PT / PTT / INR:11.8/22.9/1.0, CK / CKMB /
   Troponin-T:884/30/0.04, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   This is a 76 yo m with hx of COPD and prior left pneumothorax, now
   presenting at OSH with respiratory distress and found to have right
   pneumothorax, s/p intubation and chest tube.
   .
   # Respiratory Distress/Pneumothorax: Pt has long hx of severe COPD and
   prior hx of pneumothorax, placing pt at risk for spontaneous pneumo.
   Also there is some concern for recent exacerbation and increased
   coughing, which may have caused his pneumo. Chest tube is in place and
   on suction with resolved pneumothorax on recent cxr
   - chest tube to wall suction, trial later today to water seal with
   repeat CXR in evening
   - consider extubated today
   - see below for COPD care
   .
   # COPD/asthma hx: Pt has hx decreased lung function with obstructive
   disease. Per report of son pt had increased cough and SOB at home, this
   is concerning for a COPD exacerbation. Possible infection, since WBC is
   elevated to 17. However no clear fevers. Had Solu-Medrol 125mg at OSH
   today.
   - will start azithromycin 5 day course on [**10-26**]
   - ipratropium q6h
   - albuterol standing and prn
   - start Advair once extubated
   - clarify home COPD meds
   - hold off on further abx for now
   - sputum cx
   - monitor blood cx
   .
   # Demand Ischemia: Pt has a mildly elevated Trop and an elevated CK.
   EKG without concerning changes for ACS. Pt likely had demand ischemia
   from resp distress. CE are down trending, and pt with no chest pain, so
   likely not ACS.
   - no asa due to allergy
   - will monitor BP and start dilt (home med?) if needed
   .
   # Afib: EKG today in sinus. Unclear hx and home meds, was on dilt ER
   240 in [**2152**]
   - if HR elevated will start short acting dilt
   .
   # HTN: Unclear hx and meds
   - will hold meds for now, son to find out pt's home pharmacy
   .
   # Possible Upper GI bleed: NGT fluids with dark heme+ contents. Low
   volume, concern for bleed from GI bleed vs from traumatic ET tube
   placement. Was on PPI in past, may have prior GI hx. Could have
   gastritis from stress of situation. Hct is stable.
   - change PPI to PO
   - guaiac stool
   - monitor NGT output
   - NPO for now
   - if continues will c/s GI for possible EGD
   - recheck hct in evening
   .
   # Possible UTI: UA mildly positive, but also had foley placed
   - f/u urine cx
   - hold on other abx tx for now
   .
   # FEN: No IVF, replete electrolytes, NPO for now
   .
   # Prophylaxis: pneumoboots (due to possible GI bleed)
   - will start bowel meds once extubated or in AM if still intuabted
   .
   # Access: peripherals
   .
   # Code: confirmed full, per HCP
   .
   # Communication: Patient
   HCP- [**Name (NI) 174**] [**Name (NI) 5907**] [**Telephone/Fax (1) 8957**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-10-26**] 03:00 PM
   Prophylaxis:
   DVT: boots, can start hep sc today
   Stress ulcer: PPI IV, can change to PO today
   VAP:  protocol
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2154-10-27 10:10:00 Physician Attending Progress Note
Chief Complaint: pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted with spontaneous pneumothorax on the right in context of
   cough/COPD exacerbation, intubated for severe respirtory distress and
   inability to cough. CT placed, now extubated and doign well. CT to low
   wall suction.
                                History obtained from Medical records
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2154-10-26**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-10-27**] 04:00 AM
   Other medications:
   ipratropium, albuterol, azithromycin, pantoprazole iv
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-10-27**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 79 (73 - 85) bpm
   BP: 118/69(82) {96/57(67) - 129/71(84)} mmHg
   RR: 21 (21 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,533 mL
                                                                    321 mL
   PO:
             TF:
   IVF:
                                                                    533 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    595 mL
   Urine:
                                                                    435 mL
                                                                    595 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,823 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 408 (408 - 507) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 65
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.42/40/136/22/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.1 g/dL
   196 K/uL
   131 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   19 mg/dL
   111 mEq/L
   143 mEq/L
   39.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2154-10-26**]  01:05 PM
                             [**2154-10-26**]  04:10 PM
                             [**2154-10-26**]  06:03 PM
                             [**2154-10-27**]  12:17 AM
                             [**2154-10-27**]  08:49 AM
   WBC
   13.9
   16.1
   Hct
   39.0
   39.4
   Plt
   203
   196
   Cr
   0.8
   TropT
   0.06
   0.04
   TCO2
   23
   24
   27
   Glucose
   131
   Other labs: PT / PTT / INR:11.8/22.9/1.0, CK / CKMB /
   Troponin-T:884/30/0.04, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR no pneumothorax, / subsegmental atelectasis RML.
   Assessment and Plan
 Pneumothorax:
   Likely spontaneous, patient currently states he's at baseline. Per son
   there is concern that he had been sicker with increased cough priro to
   presetnation that precipitated the pneumothorax, although patient
   denies this currently. Will d/c azithro, start home symbicort, continue
   nebs, get out to bed into chair, if c/w increase cough or SOB will
   consider steroids. Ct with persistent leak will monitor on suction,
   will r/a in am. IP following.
elevated CK: Likely from skeletal muscle, paient states when he was
   leaning on iron board and developed significant bruses, down trending,
   EKG wiht no significant changes, and troponin only slightly elevated
   and now down trending may be slight superimposed demand ischemia.
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): unclear if this was
   traumatic NG tube placement, not witnessed her, hct stable, change iv
   ppi to po continue to monitor. start heparin s/c
 elevated wbc: likely [**3-11**] to steroids, continue to monitor and monitor
   fever curve.
   ICU Care
   Nutrition:
   Comments: clears advance as tolerated
   Glycemic Control:  none needed
   Lines:
   18 Gauge - [**2154-10-26**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, may transfer to floor later today if stable.
   Total time spent: 30 minutes

2154-10-28 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2154-10-27**] 08:52 AM
 INVASIVE VENTILATION - STOP [**2154-10-27**] 09:36 AM
   - extubated without complications
   - IP recs: continue wall suction to 20 with repeat CXR in AM as still
   with air leak
   - d/c azithromycin
   - on clears --> ADAT
   - HSQ started
   - d/c Foley
   - SW c/s placed
   - theophylline level 1.9 (subtherapeutic)
   - medication reconciliation performed via his pharmacy
   - family updated
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2154-10-26**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2154-10-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-10-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 77 (77 - 97) bpm
   BP: 141/76(93) {104/63(73) - 160/91(120)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,427 mL
                                                                    360 mL
   PO:
                                                                    730 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    697 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                    755 mL
   Urine:
                                                                  1,413 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 98%
   ABG: 7.42/40/136/27/1
   PaO2 / FiO2: 136
   Physical Examination
   Gen- Intubated, NAD, able to follow commands
   HEENT-OP unable to visualize due to ET tube
   NECK-supple, no LAD
   CHEST-some tenderness at chest tube site, CTA in anterior fields, a
   soft rub sound at chest tube site
   CV-rrr, no murmur, 2+ radial pulses
   ABD-soft, NT, ND, +BS, no HSM
   EXT-1+ pitting edema 1/3 up calves, warm ext
   NEURO-Able to responded to commands, moves all extremities, opens eyes
   SKIN-no rashes visible
   Labs / Radiology
   226 K/uL
   13.3 g/dL
   101 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   17 mg/dL
   106 mEq/L
   143 mEq/L
   39.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-10-26**]  01:05 PM
                             [**2154-10-26**]  04:10 PM
                             [**2154-10-26**]  06:03 PM
                             [**2154-10-27**]  12:17 AM
                             [**2154-10-27**]  08:49 AM
                             [**2154-10-28**]  04:04 AM
   WBC
   13.9
   16.1
   11.9
   Hct
   39.0
   39.4
   39.9
   Plt
   [**Telephone/Fax (3) 8983**]
   Cr
   0.8
   0.9
   TropT
   0.06
   0.04
   TCO2
   23
   24
   27
   Glucose
   131
   101
   Other labs: PT / PTT / INR:11.8/22.9/1.0, CK / CKMB /
   Troponin-T:884/30/0.04, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   76 yo m with hx of COPD and prior left pneumothorax, now presenting at
   OSH with respiratory distress and found to have right pneumothorax, s/p
   intubation and chest tube, now extubated
   .
   # Respiratory Distress/Pneumothorax: Pt has long hx of severe COPD and
   prior hx of pneumothorax, placing pt at risk for spontaneous pneumo.
   Also there is some concern for recent exacerbation and increased
   coughing, which may have caused his pneumo. Chest tube is in place and
   on suction with resolved pneumothorax on recent cxr
   - extubated yesterday
   - Changed to water-seal; recheck cxr this pm and consider d/c CT if no
   PTX residual.
   - see below for COPD care
   .
   # COPD/asthma hx: Pt has hx decreased lung function with obstructive
   disease. Per report of son pt had increased cough and SOB at home, this
   is concerning for a COPD exacerbation. Possible infection, since WBC is
   elevated to 17. However no clear fevers. Had Solu-Medrol 125mg at OSH
   today.
   - ipratropium q6 hours
   - albuterol q6 hours
   - on advair in lieu of symbicort which is his home medication
   - hold off on further abx for now
   - sputum cx sent
   - monitor blood cx
   .
   # Demand Ischemia: Pt has a mildly elevated Trop and an elevated CK.
   EKG without concerning changes for ACS. Pt likely had demand ischemia
   from resp distress. CE are down trending, and pt with no chest pain, so
   likely not ACS.
   - no asa due to allergy
   - will monitor BP and restart meds
   .
   # Afib: EKG today in sinus. Unclear hx and home meds, was on dilt ER
   240 in [**2152**]
   - if HR elevated will start short acting dilt
   .
   # HTN: Unclear hx and meds, normotensive currently
   - will do med reconciliation today and restart meds
   .
   # ? Upper GI bleed: possible traumatic NGT placement, hct stable.
   .
   # Possible UTI: UA mildly positive, but also had foley placed
   - f/u urine cx
   - hold on other abx tx for now
   .
   # FEN: No IVF, replete electrolytes, clear
   .
   # Prophylaxis: HSQ
   - will start bowel meds once extubated or in AM if still intuabted
   .
   # Access: peripherals
   .
   # Code: confirmed full, per HCP
   .
   # Communication: Patient
   HCP- [**Name (NI) 174**] [**Name (NI) 5907**] [**Telephone/Fax (1) 8957**]
   .
   # Disposition: Floor c/o.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-10-26**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2154-10-28**] 14:57 ------

2154-10-28 10:24:00 Physician Attending Progress Note
Chief Complaint: Spontaneous pneumothorax with respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Extubated and doing well. CT still to suction.
   History obtained from Patient
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2154-10-26**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-10-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2154-10-28**] 08:00 AM
   Other medications:
   albuteorl, atrovent, heparin s/c, diltiazem.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-10-28**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (77 - 97) bpm
   BP: 155/94(111) {138/63(90) - 160/98(120)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,427 mL
                                                                    660 mL
   PO:
                                                                    730 mL
                                                                    660 mL
   TF:
   IVF:
                                                                    697 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                  1,030 mL
   Urine:
                                                                  1,413 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughtout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.3 g/dL
   226 K/uL
   101 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   17 mg/dL
   106 mEq/L
   143 mEq/L
   39.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-10-26**]  01:05 PM
                             [**2154-10-26**]  04:10 PM
                             [**2154-10-26**]  06:03 PM
                             [**2154-10-27**]  12:17 AM
                             [**2154-10-27**]  08:49 AM
                             [**2154-10-28**]  04:04 AM
   WBC
   13.9
   16.1
   11.9
   Hct
   39.0
   39.4
   39.9
   Plt
   [**Telephone/Fax (3) 8983**]
   Cr
   0.8
   0.9
   TropT
   0.06
   0.04
   TCO2
   23
   24
   27
   Glucose
   131
   101
   Other labs: PT / PTT / INR:11.8/22.9/1.0, CK / CKMB /
   Troponin-T:884/30/0.04, Lactic Acid:1.8 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: CT in good position no pneumothorax on the right
   Assessment and Plan
 Spontaneous pneumothorax:
   CT to waterseal this am.. obtain CXR this pm.
 COPD: start advair, and nebs, ambulate and assess his respiratory
   status
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): likely [**3-11**] to
   traumatic NG tube.
? depression: consult social work.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-10-26**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes